US07868017B2
Glutaraldehyde (25% solution in water) (910 mL, 2.4 mol) and benzylamine hydrochloride (344.1 g, 2.4 mol) in water (1050 mL) was cooled to 0° C. 3-Oxopentanedioic acid (350.0 g, 2.4 mol) was added followed by addition of sodium acetate (aq.) (79.7 g in 797 mL water) resulting in formation of a thick orange precipitate. The reaction mixture was heated to 50° C. and stirred at this temperature for 4 h. It was then cooled to ambient temperature and allowed to stand for 24 h. The reaction mixture was acidified to pH2 with 5N aqueous hydrochloric acid (˜150 mL) and the resulting aqueous mixture was washed with diethyl ether (2×500 mL). The aqueous extracts were basified to pH12 with 4N aqueous sodium hydroxide (˜650 mL) and extracted with dichloromethane (6×500 mL). The organic phase was dried (MgSO4) and concentrated under reduced pressure to afford the crude product as a red oil. Purification by chromatography on silica gel with dichloromethane:methanol (49:1, v/v) as eluent afforded 9-benzyl-9-azabicyclo[3.3.1]nonan-3-one (300.0 g, 1.3 mol, 54%) as a pale orange solid.

reactant | Glutaraldehyde | 2.4 mol, 910 mL | C(CCCC=O)=O | C5H8O2
reactant | benzylamine hydrochloride | 2.4 mol, 344.1 g | Cl.C(C1=CC=CC=C1)N
reactant | 3-Oxopentanedioic acid | 2.4 mol, 350.0 g | O=C(CC(=O)O)CC(=O)O | C5H6O5
reactant | sodium acetate | 797 mL, 79.7 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | 5N, ˜150 mL | Cl | ClH
solvent | water | 1050 mL | O | H2O
product | 9-benzyl-9-azabicyclo[3.3.1]nonan-3-one | 1.3 mol, 300.0 g, 54% | C(C1=CC=CC=C1)N1C2CC(CC1CCC2)=O | C15H19NO
